US07001897B2
To a solution of 4-(t-butoxycarbonyl)piperazine (1.50 g, 8.05 mmol) in methylene chloride (68 ml) were added chloroformic acid p-nitrobenzyl ester (1.90 g, 8.86 mmol) and triethylamine (1.24 ml, 8.86 mmol) in an ice bath. The mixture was stirred in the ice bath for 1.5 hours. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The obtained organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using hexane:ethyl acetate=(1:3) as the eluant to afford 1-(t-butoxycarbonyl)-4-(p-nitrobenzyloxycarbonyl)piperazine (2.60 g, yield 89%) as a pale yellow oil.

reactant | 4-(t-butoxycarbonyl)piperazine | 8.05 mmol, 1.50 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | chloroformic acid p-nitrobenzyl ester | 8.86 mmol, 1.90 g | [N+](=O)([O-])C1=CC=C(COC(=O)Cl)C=C1 | C8H6ClNO4
reactant | triethylamine | 8.86 mmol, 1.24 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 68 ml | C(Cl)Cl | CH2Cl2
product | 1-(t-butoxycarbonyl)-4-(p-nitrobenzyloxycarbonyl)piperazine | 2.60 g, yield 89% | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C17H23N3O6
